US06410729B1
Step B: 2-Chloro-4-(4-pyridyl)-pyrimidine
With ice-bath cooling under argon, 4-(4-pyridyl)-2(1H)-pyrimidinone (13.45 g, 77.7 mmol) and thionyl chloride (92 ml) were combined. N,N-Dimethylformamide (13.2 ml, 170.5 mmol) was added slowly and the mixture was heated to reflux for 1 h. It was evaporated and co-distilled with toluene. At 0° C., water was added to the remainder, then 10% ammonium hydroxide until neutral followed by extraction with dichloromethane. Drying of the organic solution was followed by evaporation and the resultant solid was recrystallized from acetone. MS (m/z): 192.1,194.0 (M+H)+; C9H6ClN3 requir. 191.6.

reactant | 4-(4-pyridyl)-2(1H)-pyrimidinone | 77.7 mmol, 13.45 g | N1=CC=C(C=C1)C1=NC(NC=C1)=O | C9H7N3O
reactant | thionyl chloride | 92 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-Dimethylformamide | 170.5 mmol, 13.2 ml | CN(C=O)C | C3H7NO
product | 2-Chloro-4-(4-pyridyl)-pyrimidine | ClC1=NC=CC(=N1)C1=CC=NC=C1 | C9H6ClN3
